US06313311B1
4-(1,2,3,4-Tetrahydronaphthalen-1-yl)-1H-imidazole
4-(5-Chloro-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-imidazole (300 mg) is dissolved in ethanol (15 ml). The reaction solution is hydrogenated at 50° C. with 10% palladium on carbon as catalyst for 8 hours. The mixture is filtered to remove the catalyst, and the filtrate is evaporated under reduced pressure. The residue is dissolved in water and is made alkaline with sodium hydroxide solution. The product is extracted into methylene chloride which is washed with water, dried with sodium sulfate and evaporated under reduced pressure. The crude product is recrystallized from ethyl acetate. The yield is 169 mg, m.p. 105-110° C.

reactant | 4-(5-Chloro-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-imidazole | 300 mg | ClC1=C2CCCC(C2=CC=C1)C=1N=CNC1 | C13H13ClN2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(1,2,3,4-Tetrahydronaphthalen-1-yl)-1H-imidazole | C1(CCCC2=CC=CC=C12)C=1N=CNC1 | C13H14N2
